US08445501B2
3-({1-[4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidin-7-yl]-methanoyl}-amino)-azetidine-1-carboxylic acid ethyl ester
Starting from 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid azetidin-3-ylamide (example A172) and ethyl chloroformate the title compound is obtained as colorless solid.

reactant | 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid azetidin-3-ylamide | N1CC(C1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C21H21N5O4
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 3-({1-[4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidin-7-yl]-methanoyl}-amino)-azetidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CC(C1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C24H25N5O6
